US06498251B1
Synthesis Example 26a (The Inventive Intermediate) 2-t-Butoxycarbonyl-9-carbamoyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole
A 10 ml portion of tetrahydrofuran (THF) solution containing 600 mg (2.20 mmol) of 2-t-butoxycarbonyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole was cooled to −78° C., mixed with 4.13 ml (6.60 mmol) of 1.6 M n-butyl lithium hexane solution and stirred for 30 minutes, while temperature of the reaction solution increased to −45° C. This was mixed with 6 ml of THF solution containing 1.31 g (4.40 mmol) of triphosgene and stirred for 3.5 hours, while temperature of the reaction solution increased to 0° C. After additional 2 hours of stirring at room temperature, the reaction solution was again cooled to −30° C. This was mixed with 20 ml of 28% ammonia aqueous solution, stirred for 30 minutes and then extracted with chloroform. The extract was washed with water, hydrochloric acid in that order and dried (Na2SO4), and then the solvent was removed by evaporation under a reduced pressure and the resulting oily material was purified by a silica gel column chromatography (140 cc; elution by ethyl acetate-hexane=2:5) to obtain 469 mg of the title compound (68% in yield).

reactant | 2-t-butoxycarbonyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | 2.20 mmol, 600 mg | C(C)(C)(C)OC(=O)N1CC=2NC3=CC=CC=C3C2CC1 | C16H20N2O2
reactant | n-butyl lithium hexane | 6.60 mmol, 1.6 M, 4.13 ml | CCCCCC.C(CCC)[Li]
reactant | triphosgene | 4.40 mmol, 1.31 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | ammonia aqueous | 20 ml | [NH4+].[OH-]
solvent | THF | 6 ml | O1CCCC1 | C4H8O
product | 2-t-Butoxycarbonyl-9-carbamoyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | 469 mg, 68% | C(C)(C)(C)OC(=O)N1CC=2N(C3=CC=CC=C3C2CC1)C(N)=O | C17H21N3O3
